US05098932
A solution of 3-tert-butyldimethylsilyloxybutan-2-one (5.56 g; prepared by reacting 3-hydroxybutan-2-one with tert-butyldimethylsilyl chloride in diethyl ether and using imidazole as a suitable base) in tetrahydrofuran (5 ml) was added to a solution of 3-benzyloxy-5-fluorophenylmagnesium bromide [prepared by heating a mixture of benzyl 3-bromo-5-fluorophenyl ether (6.7 g), magnesium powder (0.58 g) and tetrahydrofuran (50 ml) to 40° C. for 1 hour] in tetrahydrofuran (50 ml) and the mixture was stirred at ambient temperature for 2.5 hours. The mixture was evaporated and the residue was partitioned between diethyl ether and water. The organic phase was washed with a saturated aqueous sodium chloride solution, dried (MgSO4) and evaporated. The residue was purified by column chromatography using a 3:2 v/v mixture of petroleum ether (b.p. 40°-60° C.) and methylene chloride as eluent. There was thus obtained an erythro isomer, (2RS,3SR)-2-(3-benzyloxy-5-iluorophenyl)-3-(tert-butyldimethylsilyloxybutan -2-ol (3.8 g, 41%), as an oil; and a threo isomer, the corresponding (2RS,3RS)-isomer (1.73 g, 18%), as an oil.

reactant | 3-tert-butyldimethylsilyloxybutan-2-one | [Si](C)(C)(C(C)(C)C)OC(C(C)=O)C | C10H22O2Si
reactant | 3-hydroxybutan-2-one | OC(C(C)=O)C | C4H8O2
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 3-benzyloxy-5-fluorophenylmagnesium bromide | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)[Mg]Br
reactant | benzyl 3-bromo-5-fluorophenyl ether | 6.7 g | BrC=1C=C(C=C(C1)F)OCC1=CC=CC=C1 | C13H10BrFO
reactant | magnesium | 0.58 g | [Mg] | Mg
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | tert-butyldimethylsilyloxybutan -2-ol | 3.8 g, 41% | [Si](C)(C)(C(C)(C)C)OCC(CC)O | C10H24O2Si
